US04540695
A mixture of 9-acetyl-9-acetamino-6,11-dihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione (3.0 g), acetic acid (90 ml) and conc. hydrochloric acid (60 ml) was heated under reflux for 9 hours. The reaction mixture was concentrated under reduced pressure. The residue was admixed with a saturated sodium bicarbonate solution (1000 ml), followed by stirring for 1 hour. The precipitated crystals were collected by filtration to give 9-acetyl-9-amino-6,11-dihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione (2.6 g). M.P., 190°-195° C.

reactant | 9-acetyl-9-acetamino-6,11-dihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione | 3.0 g | C(C)(=O)C1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)NC(=O)C | C22H19NO6
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 9-acetyl-9-amino-6,11-dihydroxy-7,8,9,10-tetrahydro-5,12-naphthacenedione | 2.6 g | C(C)(=O)C1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)N | C20H17NO5
